US06815458B2
Reaction-step 1: 4-[2-(4-Methylphenyl)ethylamino]-piperidin (50ELH58)
Starting materials: 1-Methyl-4-piperidone (1.1 ml, 7.4 mmol, 1.0 eq.), 2-(4-methylphenyl)ethylamine (1.0 g, 1.0 eq.).

reactant | 1-Methyl-4-piperidone | 7.4 mmol, 1.1 ml, 1.0 eq. | CN1CCC(CC1)=O | C6H11NO
reactant | 2-(4-methylphenyl)ethylamine | 1.0 g, 1.0 eq. | CC1=CC=C(C=C1)CCN | C9H13N
product | 4-[2-(4-Methylphenyl)ethylamino]-piperidin | CC1=CC=C(C=C1)CCNC1CCNCC1 | C14H22N2
